US04843079
10-amino-3,4-dihydro-7-trifluoromethyl-1H-thiopyrano[4,3-b]quinoline
To a solution of 4-trifluoromethyl anthranilonitrile (12.2 g) in 50 ml of nitrobenzene was added freshly fused and pulverized zinc chloride (13.4 g). This was stirred at 50° C. for 1.5 hours after which was added tetrahydrothiopyran-4-one (9.9 g). The reaction mixture was stirred at 130° C. for 2 hours and allowed to cool, and the resulting complex was filtered and rinsed with ethyl ether. The solid was partitioned between 2-butanone (MEK) and NH4OH and the aqueous phase was extracted with MEK (2x). The organics were washed with water, dried (saturated NaCl, MgSO4) and concentrated to give 10.2 g of a yellow powder m.p. 253°-259° C. d. A 3.7 g portion was recrystallized from methanol/water to give 3.0 g of an off-white powder, m.p. 258°-262° C. d.

reactant | 4-trifluoromethyl anthranilonitrile | 12.2 g | FC(C=1C=C(C(C#N)=CC1)N)(F)F | C8H5F3N2
reactant | tetrahydrothiopyran-4-one | 9.9 g | S1CCC(CC1)=O | C5H8OS
solvent | nitrobenzene | 50 ml | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
catalyst | zinc chloride | 13.4 g | [Cl-].[Zn+2].[Cl-]
product | 10-amino-3,4-dihydro-7-trifluoromethyl-1H-thiopyrano[4,3-b]quinoline | 10.2 g | NC1=C2C(=NC=3C=C(C=CC13)C(F)(F)F)CCSC2 | C13H11F3N2S
